* c:\users\my\desktop\prakash\prakash.cir

.include NPN.lib
v3  vbin gnd pulse(0Amps 2Amps 0us 1us 1us 2ms 4ms)
v1  vain gnd pulse(0V 2Amps 0us 1us 1us 1ms 2ms)
* u1  vain plot_v1
* u2  vbin plot_v1
* u3  voutput plot_v1
q2 voutput net-_q2-pad2_ gnd Q2N2222
q1 voutput net-_q1-pad2_ gnd Q2N2222
v2 net-_r2-pad2_ gnd  dc 2Amps
r1  vain net-_q1-pad2_ esim_r
r3  vbin net-_q2-pad2_ esim_r
r2  voutput net-_r2-pad2_ esim_r
.tran 2e-03 20e-03 0e-03

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(vain)
plot v(vbin)
plot v(voutput)
.endc
.end
